US06392090B1
In a 200 ml four-necked flask were placed 49.53 g (0.240 mol) of 2,6-di-tert-butylphenol (hereinafter abbreviated to “2,6-DBP”), 2.05 g (0.018 mol) of DMi and 40 g of xylene, and the solution was heated until reflux begun. Afterward, azeotropic dehydration was carried out, while 4.41 g (0.054 mol) of a 49 wt % aqueous NaOH solution was added dropwise over 5 hours. Next, 20 g of xylene was added dropwise, and the solution was allowed to mature under the reflux for 2 hours. It was confirmed that a stoichiometric amount of water was distilled. The reaction solution was put in a 300 ml autoclave, heated up to 160° C., and then allowed to absorb a carbon dioxide gas at 6 kg/cm2G, followed by maturation at the same temperature for 5 hours. In this case, a conversion was 90.0%/NaOH. The reaction solution was slowly cooled to 70° C., and then crystallized at 70° C. for 2 hours. The reaction solution was filtered at the same temperature, and then washed three times with 20 g of xylene to obtain wet sodium 3,5-ditert-butyl-4-hydroxybenzoate. According to analysis, the recovery yield of sodium 3,5-di-tert-butyl-4-hydroxybenzoate was 88.4%/NaOH, and any DMi was not detected. It was confirmed that DMi was completely recovered in a filtrate and a wash liquid in the steps of the heating, the filtration and the washing. The wet product was dissolved in 54 g of water at 60° C., and an extraction operation was carried out twice with 18 g of xylene to obtain an aqueous layer. Xylene dissolved in this aqueous layer was distilled off under reduced pressure, and the aqueous layer was added dropwise to 49 g of a 6% sulfuric acid solution over 2 hours to crystallize. The resulting precipitate was filtered, and then washed three times with 12 g of water. Next, wet 3,5-di-tert-butyl-4-hydroxybenzoic acid was taken out, and then dried to obtain 12.0 g of 3,5-di-tert-butyl-4-hydroxybenzoic acid, and a purity was 99.9% or more and a total recovery yield in terms of pure product from the raw material was 88.0%/NaOH.

reactant | 2,6-di-tert-butylphenol | 0.240 mol, 49.53 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | xylene | 40 g | C=1(C(=CC=CC1)C)C | C8H10
reactant | NaOH | [OH-].[Na+]
reactant | xylene | 20 g | C=1(C(=CC=CC1)C)C | C8H10
reactant | water | O | H2O
product | sodium 3,5-ditert-butyl-4-hydroxybenzoate | C(C)(C)(C)C=1C=C(C(=O)[O-])C=C(C1O)C(C)(C)C.[Na+] | InChI=1S/C15H22O3.Na/c1-14(2,3)10-7-9(13(17)18)8-11(12(10)16)15(4,5)6;/h7-8,16H,1-6H3,(H,17,18);/q;+1/p-1
